US06670372B2
Using the general method of Example 1 Part A, 2-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (4.0 g, 17.6 mmol) was reacted with propargyl bromide (80% in toluene, 5.9 mL, 52.8 mmol) to provide 3.6 g of 2-methyl-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as a dark brown oil.

reactant | 2-(2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 17.6 mmol, 4.0 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCO | C13H13N3O
reactant | propargyl bromide | 52.8 mmol, 5.9 mL | C(C#C)Br | C3H3Br
product | 2-methyl-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 3.6 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#C | C16H15N3O
